US07737166B2
7-Bromo-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-46)
Next, a mixture of (2-bromo-5-cyano-3-hydroxy-6-methylbiphenyl-4-yl)cyclopropanecarboxamide/4-amino-2-bromo-5-cyano-6-methylbiphenyl-4-yl cyclopropanecarboxylate mixture (160 mg, 0.426 mmol), p-toluenesulfonic acid monohydrate (24 mg, 0.128 mmol) and toluene (13 ml) was heated under reflux for 1.5 hours. After cooling, the reaction liquid was diluted with ethyl acetate, successively washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine, dried on anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure to obtain a pale brown residue. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to obtain the entitled compound (129 mg) as a colorless solid.

reactant | (2-bromo-5-cyano-3-hydroxy-6-methylbiphenyl-4-yl)cyclopropanecarboxamide 4-amino-2-bromo-5-cyano-6-methylbiphenyl-4-yl cyclopropanecarboxylate | 0.426 mmol, 160 mg | BrC1=C(C(=C(C(=C1O)C1(CC1)C(=O)N)C#N)C)C1=CC=CC=C1.C1(CC1)C(=O)OC1(CC(=C(C(=C1C#N)C)C1=CC=CC=C1)Br)N
reactant | p-toluenesulfonic acid monohydrate | 0.128 mmol, 24 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 129 mg | BrC=1C(=C(C(=C2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2 | C18H13BrN2O
